US09102591B2
2-Chloro-N-((4,4-difluoro-1-(2-(difluoromethyl)pyrimidin-5-yl)cyclohexyl)methyl)-3-methoxybenzamide
From 2-chloro-3-methoxybenzoic acid and (1-(2-(difluoromethyl)pyrimidin-5-yl)-4,4-difluorocyclohexyl)methanamine. LCMS (MH+): m/z=446.1, tR (minutes, Method F)=2.82

reactant | 2-chloro-3-methoxybenzoic acid | ClC1=C(C(=O)O)C=CC=C1OC | C8H7ClO3
reactant | (1-(2-(difluoromethyl)pyrimidin-5-yl)-4,4-difluorocyclohexyl)methanamine | FC(C1=NC=C(C=N1)C1(CCC(CC1)(F)F)CN)F | C12H15F4N3
product | 2-Chloro-N-((4,4-difluoro-1-(2-(difluoromethyl)pyrimidin-5-yl)cyclohexyl)methyl)-3-methoxybenzamide | ClC1=C(C(=O)NCC2(CCC(CC2)(F)F)C=2C=NC(=NC2)C(F)F)C=CC=C1OC | C20H20ClF4N3O2
